US08138181B2
Step C: Preparation of 3-fluoropiperidin-4-one hydrochloride:
To a hazy solution of tert-butyl 3-fluoro-4-oxopiperidine-1-carboxylate (52.66 g, 242 mmol) in EtOAc (1 L) was added 4M HCl/dioxane (303 mL, 1212 mmol). The mixture was allowed to stir at ambient temperature for 16 hours. The resulting precipitate was collected by filtration, washed with EtOAc and dried in vacuo to afford 37 g (99%) of desired product as a solid.

reactant | tert-butyl 3-fluoro-4-oxopiperidine-1-carboxylate | 242 mmol, 52.66 g | FC1CN(CCC1=O)C(=O)OC(C)(C)C | C10H16FNO3
reactant | HCl dioxane | 1212 mmol, 4M, 303 mL | Cl.O1CCOCC1
solvent | EtOAc | 1 L | CCOC(=O)C | C4H8O2
product | 3-fluoropiperidin-4-one hydrochloride | 37 g, 99% | Cl.FC1CNCCC1=O | InChI=1S/C5H8FNO.ClH/c6-4-3-7-2-1-5(4)8;/h4,7H,1-3H2;1H
